US08686024B2
(1) Synthesis of 1-phenethylindolin-5-ol
To a solution of 5-methoxy-1-phenethylindole (95 mg, 0.38 mmol) in 1.9 mL of dry dichloromethane was added boron tribromide-dichloromethane solution (4 M, 0.47 mL, 1.9 mmol) under nitrogen at 0° C. After the reaction mixture was stirred at room temperature for 30 min, methanol (1 mL) was added with additional stirring at room temperature for 5 min. After the reaction mixture was neutralized by saturated NaHCO3 aqueous solution, the solution was extracted with ethyl acetate. The extract was washed with brine, and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (chloroform/methanol=100/0 to 95/5) to obtain the title compound (25.3 mg, 28%).

reactant | 5-methoxy-1-phenethylindole | 0.38 mmol, 95 mg | COC=1C=C2C=CN(C2=CC1)CCC1=CC=CC=C1 | C17H17NO
reactant | boron tribromide dichloromethane | 1.9 mmol, 4 M, 0.47 mL | B(Br)(Br)Br.ClCCl
reactant | methanol | 1 mL | CO | CH4O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 1.9 mL | ClCCl | CH2Cl2
product | 1-phenethylindolin-5-ol | 25.3 mg, 28% | C(CC1=CC=CC=C1)N1CCC2=CC(=CC=C12)O | C16H17NO
